US08124617B2
methyl 5-(benzyloxy)-2-(thiophene-2-sulfonamido)benzoate
Methyl 5-(benzyloxy)-2-(amino)benzoate ([116027-17-9], 1.3 g, 5.06 mmol) was stirred in DCM (20 mL) and pyridine (1.2 mL) at 0° C. Thiophene-2-sulfonyl chloride (1.02 g, 5.56 mmol) was added. After one hour, the cooling bath was removed and the reaction was stirred overnight. The mixture was washed once with 10% aqueous HCl. The organics were dried and concentrated. Chromatography (20 to 40% ethyl acetate in hexanes) gave the title compound. [M+H] calc'd for C19H17NO5S2, 404; found, 404.

reactant | Methyl 5-(benzyloxy)-2-(amino)benzoate | 5.06 mmol, 1.3 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C(=O)OC)C1)N | C15H15NO3
reactant | pyridine | 1.2 mL | N1=CC=CC=C1 | C5H5N
reactant | Thiophene-2-sulfonyl chloride | 5.56 mmol, 1.02 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | methyl 5-(benzyloxy)-2-(thiophene-2-sulfonamido)benzoate | C(C1=CC=CC=C1)OC=1C=CC(=C(C(=O)OC)C1)NS(=O)(=O)C=1SC=CC1 | C19H17NO5S2
